US04031221
By following the manipulative procedure described in Example 4(b), 4-(p-fluorophenoxy)piperidine is reacted with indole-3-glyoxyloyl chloride to give 1-(indol-3-ylglyoxyloyl)-4-(p-fluorophenoxy)piperidine as an off-white solid. The solid is recrystallized twice from a methanol and water mixture to give white needles of the glyoxamide, m.p. 205°-207° C.

reactant | 4-(p-fluorophenoxy)piperidine | FC1=CC=C(OC2CCNCC2)C=C1 | C11H14FNO
reactant | indole-3-glyoxyloyl chloride | C1=CC=C2C(=C1)C(=CN2)C(=O)C(=O)Cl | C10H6ClNO2
product | 1-(indol-3-ylglyoxyloyl)-4-(p-fluorophenoxy)piperidine | N1C=C(C2=CC=CC=C12)C(C(=O)N1CCC(CC1)OC1=CC=C(C=C1)F)=O | C21H19FN2O3
